US06998412B2
2-Methyl-2-[6-(5-methyl-2-phenyloxazol-4-yl)hexyloxy]-propanol
To 214 ml of dry ether, 1.35 g of lithium aluminum hydride was added, and a solution of 10.7 g of methyl 2-methyl-2-[6-(5-methyl-2-phenyloxazol-4-yl)hexyloxy]-propionate/40 ml of dry ether was added dropwise with stirring under ice-cooling and stirred for 1 hour. To the mixture was added dropwise 43 ml of tetrahydrofuran/1.7 ml of water followed by addition of 6.3 ml of water and 1.7 ml of 1 N sodium hydroxide, and the mixture was stirred for 15 minutes and filtrated to remove insolubles. The filtrate was concentrated. The residue was purified by silica gel column chromatography (Wakogel® C-200, n-hexane:ethyl acetate=3:1) to provide 8.44 g of the objective compound.

reactant | ether | 214 ml | CCOCC | C4H10O
reactant | lithium aluminum hydride | 1.35 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2-methyl-2-[6-(5-methyl-2-phenyloxazol-4-yl)hexyloxy]-propionate | 40 ml, 10.7 g | CC(C(=O)OC)(C)OCCCCCCC=1N=C(OC1C)C1=CC=CC=C1 | C21H29NO4
reactant | sodium hydroxide | 1 N, 1.7 ml | [OH-].[Na+]
solvent | water | 6.3 ml | O | H2O
solvent | tetrahydrofuran | 43 ml | O1CCCC1 | C4H8O
product | 2-Methyl-2-[6-(5-methyl-2-phenyloxazol-4-yl)hexyloxy]-propanol | 8.44 g | CC(CO)(C)OCCCCCCC=1N=C(OC1C)C1=CC=CC=C1 | C20H29NO3
